US07678834B2
4.67 g 4-dimethylamino-4-(3-fluorobenzyl)cyclohexanone were reacted with 1.0 molar benzylmagnesium chloride solution in THF analogously to the preparation of 4-dimethylamino-4-(4-fluorobenzyl)-1-phenethylcyclohexanol. After chromatography over silica gel, the nonpolar diastereoisomer of 1-benzyl-4-dimethylamino-4-(3-fluorobenzyl)cyclohexanol obtained was converted into 261 mg of the corresponding hydrochloride as described for example 4.

reactant | 4-dimethylamino-4-(3-fluorobenzyl)cyclohexanone | 4.67 g | CN(C1(CCC(CC1)=O)CC1=CC(=CC=C1)F)C | C15H20FNO
reactant | benzylmagnesium chloride | 1.0 molar | C(C1=CC=CC=C1)[Mg]Cl
solvent | THF | C1CCOC1 | C4H8O
product | 1-benzyl-4-dimethylamino-4-(3-fluorobenzyl)cyclohexanol | C(C1=CC=CC=C1)C1(CCC(CC1)(CC1=CC(=CC=C1)F)N(C)C)O | C22H28FNO
